US07897607B2
5-Methoxy-2-(methylamino)-4H-3,1-benzoxazin-4-one
A mixture of 2-amino-6-methoxybenzoic acid (2.00 g, 12.0 mmol) and methylisocyanate (1.00 g, 17.5 mmol) in dioxane (50 ml) was stirred at 80° C. for 2 h. After cooling to room temperature, 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (6.88 g, 36.0 mmol) and triethylamine (5.00 ml, 36.0 mmol) were added. The mixture was stirred at room temperature for 16 h, diluted with water and extracted with ethyl acetate. The extract was washed with brine, dried over magnesium sulfate and concentrated under vacuum. The residue was purified by column chromatography eluting with 20% ethyl acetate/n-hexane to afford 1.06 g (43%) of the title compound.

reactant | 2-amino-6-methoxybenzoic acid | 12.0 mmol, 2.00 g | NC1=C(C(=O)O)C(=CC=C1)OC | C8H9NO3
reactant | methylisocyanate | 17.5 mmol, 1.00 g | CN=C=O | C2H3NO
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 36.0 mmol, 6.88 g | Cl.CN(CCCN=C=NCC)C
reactant | triethylamine | 36.0 mmol, 5.00 ml | C(C)N(CC)CC | C6H15N
solvent | dioxane | 50 ml | O1CCOCC1 | C4H8O2
solvent | water | O | H2O
product | 5-Methoxy-2-(methylamino)-4H-3,1-benzoxazin-4-one | 1.06 g, 43% | COC1=CC=CC2=C1C(OC(=N2)NC)=O | C10H10N2O3
